US05665718
1.6 g (4.4 mmol) of 7-chloro-3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one were stirred at room temperature for 4.5 hours with 1.1 g (15 mmol) of diethylamine and 10 ml of N,N-dimethylformamide. By evaporation of the reaction mixture and chromatography of the residue on silica gel while eluting with methylene chloride/methanol 9/1 there were obtained 1.50 g (85%) of 7-chloro-3-(5-diethylaminomethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one, which was converted into the hydrochloride of m.p. 250°-252°.

reactant | 7-chloro-3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 4.4 mmol, 1.6 g | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C1=NOC(=N1)CCl)C)=O | C15H11Cl2N5O2
reactant | diethylamine | 15 mmol, 1.1 g | C(C)NCC | C4H11N
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 7-chloro-3-(5-diethylaminomethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 1.50 g, 85% | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C1=NOC(=N1)CN(CC)CC)C)=O | C19H21ClN6O2
